US07671080B2
1-Cyano-cyclobutanecarboxylic acid ethyl ester was prepared from ethyl cyanoacetate (10.0 g, 88.4 mmol) and 1,3-dibromopropane (8.9 ml, 88.5 mmol) in the same manner as 1-cyano-cyclopentanecarboxylic acid ethyl ester giving 1-cyano-cyclobutanecarboxylic acid ethyl ester as a yellow oil (9.03 g, 67%).

reactant | ethyl cyanoacetate | 88.4 mmol, 10.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 1,3-dibromopropane | 88.5 mmol, 8.9 ml | BrCCCBr | C3H6Br2
reactant | 1-cyano-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCCC1)C#N | C9H13NO2
product | 1-cyano-cyclobutanecarboxylic acid ethyl ester | 9.03 g, 67% | C(C)OC(=O)C1(CCC1)C#N | C8H11NO2
